US08461328B2
A 4.0 M solution of HCl in 1,4-dioxane (100 ml) was added to a solution of [1-(2-cyano-1-methyl-ethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester (50.0 mmol) in 1,4-dioxane (50 ml) at 25° C. The reaction mixture was stirred at 45° C. for 3.5 h, then was cooled to 25° C. and concentrated under reduced pressure to afford crude 3-(4-amino-piperidin-1-yl)-butyronitrile (hydrochloride salt) as a beige solid. 1H NMR (400 MHz, DMSO) δ 8.52 (s, 2H), 4.21 (s, 2H), 3.83-3.68 (m, 1H), 3.49-3.25 (m, 2H), 3.17 (dd, J=16.9, 8.0 Hz, 1H), 2.23-1.99 (m, 2H), 1.42 (d, J=6.7 Hz, 1H). This material was used in the next step below without additional purification or characterization.

reactant | HCl | Cl | ClH
reactant | [1-(2-cyano-1-methyl-ethyl)-piperidin-4-yl]-carbamic acid tert-butyl ester | 50.0 mmol | C(C)(C)(C)OC(NC1CCN(CC1)C(CC#N)C)=O | C14H25N3O2
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 3-(4-amino-piperidin-1-yl)-butyronitrile | NC1CCN(CC1)C(CC#N)C | C9H17N3
